US05861401
2-Amino-3,5-dibromopyrazine (1.0 g) was dissolved in a solution of dimethylamine in ethanol (33% w/v; 20 ml) and the solution was heated under reflux for 18 hours. Volatile material was removed by evaporation and the residue was purified by elution with dichloromethane through a silica gel Mega Bond Elut column to give 2-amino-5-bromo-3-dimethylaminopyrazine (0.67 g); 1H NMR (d6 -DMSO): 2.75 (s, 6H), 6.1-6.2 (br s, 2H), 7.6 (s, 1H); mass spectrum (+ve CI): 217 (M+H)+.

reactant | 2-Amino-3,5-dibromopyrazine | 1.0 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-amino-5-bromo-3-dimethylaminopyrazine | 0.67 g | NC1=NC=C(N=C1N(C)C)Br | C6H9BrN4
